US08809342B2
To a solution of 3-methyl-5-nitro-2-(4-(trifluoromethyl)phenyl)pyridine (223 mg, 0.79 mmol) in ethanol (30 mL) was added 10 wt % palladium on carbon (100 mg). The reaction was pressurized to 50 psi hydrogen and was stirred at room temperature for 3 hours. The reaction mixture was filtered through Celite and concentrated to give 5-methyl-6-(4-(trifluoromethyl)phenyl)pyridin-3-amine (198 mg, 99%). 1H NMR (400 MHz, CDCl3, δ): 8.04 (s, 1 H), 7.67 (m, 2 H), 7.60 (m, 2 H), 6.91 (s, 1 H), 3.72 (br s, 2 H), 2.30 (s, 3 H).

reactant | 3-methyl-5-nitro-2-(4-(trifluoromethyl)phenyl)pyridine | 0.79 mmol, 223 mg | CC=1C(=NC=C(C1)[N+](=O)[O-])C1=CC=C(C=C1)C(F)(F)F | C13H9F3N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 5-methyl-6-(4-(trifluoromethyl)phenyl)pyridin-3-amine | 198 mg, 99% | CC=1C=C(C=NC1C1=CC=C(C=C1)C(F)(F)F)N | C13H11F3N2
